US04105681
By the procedure of Example 14, 9-(2,3,4,6-tetramethylphenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl ester is manufactured from 2,3,4,6-tetramethyl-benzyl-triphenylphosphonium chloride by reaction with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester. From this product, there is produced by the procedure of Example 15 9-(2,3,4,6-tetra-methyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid of melting point 201°-202° C.

reactant | 9-(2,3,4,6-tetramethylphenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl ester | C(CCC)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)C)C)C)C)C)=O | C25H34O2
reactant | 2,3,4,6-tetramethyl-benzyl-triphenylphosphonium chloride | [Cl-].CC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC(=C1C)C)C
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester | C(CCC)OC(C=C(C=CC=C(C)C=O)C)=O | C14H20O3
product | 9-(2,3,4,6-tetra-methyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid | CC1=C(C(=CC(=C1C)C)C)C=CC(=CC=CC(=CC(=O)O)C)C | C21H26O2
